US03941782
4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride
3.21 g. (9.37 mmole) of 4,4-Dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran was combined with 1.82 g. (9.37 mmole) of γ-pyrrolidinobutyric acid hydrochloride and 2.06 g. (10.0 mmole) of dicyclohexylcarbodiimide in 150 ml. of methylene chloride and stirred at room temperature for 21/2 hours. The insoluble by-product of dicyclohexylurea was removed by filtration and the filtrate was evaporated to give a residue which crystallized upon standing. The material was triturated with ether and filtered. Recrystallization from benzene/ether gave 3.5 g. (72%) of product of colorless crystals, m.p. 138°-141°C. The material was pure by thin layer chromatography (10% MeOH/CHCl3); the infrared and nuclear magnetic resonance spectra were consistent with the proposed structure.

reactant | 4,4-Dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran | 9.37 mmole | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C23H34O2
reactant | γ-pyrrolidinobutyric acid hydrochloride | 9.37 mmole | Cl.N1(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 10.0 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 4,4-Dimethyl-7-(3-methyl-2-octyl)-9-[4-(pyrrolidino)butyryloxy]-1,2,3,4-tetrahydrocyclopenta[ c][1]benzopyran hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCCC2)=O)C | InChI=1S/C31H47NO3.ClH/c1-6-7-8-13-22(2)23(3)24-20-27(34-29(33)16-12-19-32-17-9-10-18-32)30-25-14-11-15-26(25)31(4,5)35-28(30)21-24;/h20-23H,6-19H2,1-5H3;1H
